US04910190
a. 4-Nitrophenyl 2-(3-thiophenyl)ethyl carbonate
Using the method of Example 7a, 3-thiopheneethanol was treated with 4-nitrophenyl chloroformate to afford, after purification by flash chromatography (EtOAc:hexane (1:9)), the title product (56%); TLC, Rf =0.25, EtOAc:hexane (1:9).

reactant | 3-thiopheneethanol | S1C=C(C=C1)CCO | C6H8OS
reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
product | 4-Nitrophenyl 2-(3-thiophenyl)ethyl carbonate | C(OC1=CC=C(C=C1)[N+](=O)[O-])(OCCC1=CSC=C1)=O | C13H11NO5S
